US04337201
(S)-4-Azido-1-[[hydroxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline
(S)-4-Azido-1-[[hydroxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline, methyl ester (1.30 g) and 1 N sodium hydroxide (about 15 ml) is stirred for 30 minutes. The reaction mixture is acidified with concentrated hydrochloric acid, extracted with ethyl acetate, washed with water, washed with brine, dried over sodium sulfate, and the solvent is stripped yielding 1.11 g of the title compound having an optical rotation [α]D =-22.3° (c=10 mg/ml, methanol). The product contains 1/2 mole of water.

reactant | (S)-4-Azido-1-[[hydroxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline, methyl ester | 1.30 g | N(=[N+]=[N-])C1C[C@H](N(C1)C(CP(=O)(CCCCC1=CC=CC=C1)O)=O)C(=O)OC | C18H25N4O5P
reactant | sodium hydroxide | 1 N, about 15 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | (S)-4-Azido-1-[[hydroxy(4-phenylbutyl)phosphinyl]acetyl]-L-proline | 1.11 g | N(=[N+]=[N-])C1C[C@H](N(C1)C(CP(=O)(CCCCC1=CC=CC=C1)O)=O)C(=O)O | C17H23N4O5P
